US07067517B2
Methyl-phenyl-carbamic acid 4-(3-methyl-butylcarbamoyl)-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and iso-amylamine. The crude product was used without further purification (95%, oil). HPLC-MS: m/z=341.2 (M+1); Rt: 3.99 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | iso-amylamine | C(CC(C)C)N | C5H13N
product | Methyl-phenyl-carbamic acid 4-(3-methyl-butylcarbamoyl)-phenyl ester | CC(CCNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C20H24N2O3
